Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fatigue
 
Major Surgical or Invasive Procedure:
TEE/DCCV (___)

 
History of Present Illness:
Mr. ___ is a ___ man with a PMH notable for 
paroxysmal atrial fibrillation, who presents from his PCP's 
office after being found to be tachycardic.
The history given by the patient is a bit vague. He reports 
first having heart problems going back to the ___ 
when he had intermittent palpitations. In ___, he was 
hospitalized for a lung infection. During that time, he was 
diagnosed with atrial fibrillation that was thought to be 
triggered by the infection. He also mentions having had 
echocardiograms at that time to rule out vegetations. He was 
discharged on clarithromycin and doxycycline for the pneumonia. 
Prior to the New Year, he went down to ___ and started 
feeling generally unwell. He started having malaise, coughing 
with phlegm production, and shortness of breath. When he 
returned to ___ earlier this week, he went to see his PCP ___ 
___. Earlier that day, he had a fever to 101 at home. On arrival 
to the office, he was found to have a heart rate in the 140s, 
and sent to the ED for further care.
In the ___ ED, he was given diltiazem boluses and placed on a 
diltiazem drip that slowed his heart rate to the 110s. His BP 
was normal in the 100s/70s. Because of his recent travel, a 
d-dimer was checked, which was highly elevated. He had a CTA 
that was negative for PE or clear consolidations. He was then 
admitted to Cardiology for further management of his 
tachyarrhythmia.
On arrival to the floor, patient reports feel somewhat better, 
but still quite fatigued.
Review of systems:
(+) Per HPI
(-) Denies chills, night sweats, recent weight loss or gain. 
denies headache, sinus tenderness, rhinorrhea or congestion. 
Denies chest pain or tightness, palpitations. Denies nausea, 
vomiting, diarrhea, constipation or abdominal pain. No recent 
change in bowel or bladder habits. No dysuria. Denies 
arthralgias or myalgias.
 
Past Medical History:
- Paroxysmal atrial fibrillation on aspirin only
- Hypertension
- Gout
- GERD
- Anxiety
 
Social History:
___
Family History:
Father had a MI and CABG in his ___.
 
Physical Exam:
==================
ADMISSION EXAM
==================
Vital Signs: T 97.8, HR 92, BP 132/66, RR 20, SAT 98% on RA
Weight: 118.8 kg
General: Alert, oriented, no acute distress, obese habitus
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP slightly elevated at 8-9 cm
CV: Tachycardic, irregularly irregular rhythm, normal S1 + S2, 
no murmurs, rubs, gallops
Lungs: Mostly clear to auscultation bilaterally with bibasilar 
crackles, no wheezing
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: CNII-XII intact, grossly normal motor function

==================
DISCHARGE EXAM
==================
Wt 113.9kg
VS: Afebrile, Tcurr 97.9F, bp 91-125/47-88, bpcurr= 103/66, HR 
69-86, RR 16, 99% O2sat on RA
Tele: NSR since TEE cardiovrsion
General: Awake, alert, in no acute distress, sitting up in a 
chair
HEENT: NC/AT, PERRLA, clear conjunctiva b/l, MMM
Neck: Supple, no cervical lymphadenopathy
CV: RRR, S1, S2, no murmurs, rubs, gallops  
Lungs: CTAB, no wheezes
Abdomen: Soft, obese, non-distended, +BS, non-tender to 
palpation in all four quadrants
Ext: Warm, no edema, 2+ peripheral pulses 
 
Pertinent Results:
=================
ADMISSION LABS
=================
___ 02:05PM BLOOD WBC-11.0* RBC-4.47* Hgb-11.7* Hct-37.8* 
MCV-85 MCH-26.2 MCHC-31.0* RDW-14.0 RDWSD-43.2 Plt ___
___ 02:05PM BLOOD Neuts-79.3* Lymphs-13.4* Monos-5.6 
Eos-0.8* Baso-0.4 Im ___ AbsNeut-8.71* AbsLymp-1.47 
AbsMono-0.62 AbsEos-0.09 AbsBaso-0.04
___ 02:05PM BLOOD ___ PTT-29.1 ___
___ 02:05PM BLOOD Glucose-105* UreaN-16 Creat-1.2 Na-135 
K-4.4 Cl-99 HCO3-22 AnGap-18
___ 02:05PM BLOOD Calcium-9.2 Phos-3.9 Mg-1.9

======================
PERTINENT RESULTS
======================
LABS
======================
___ 02:05PM BLOOD proBNP-1742*
___ 02:05PM BLOOD cTropnT-<0.01
___ 03:20PM BLOOD D-Dimer-3280*
___ 02:05PM BLOOD TSH-1.2
___ 06:05AM BLOOD CRP-138.4*
___ 07:10AM BLOOD SED RATE-79   

======================
IMAGING/STUDIES
======================
CXR (___): No acute cardiopulmonary process.
---
CTA (___): 
1. No evidence of pulmonary embolism or acute aortic 
abnormality. 
2. Small pericardial effusion appears mildly complex without 
evidence for abnormal pericardial enhancement or thickening. 
3. Small left and trace right layering nonhemorrhagic pleural 
effusions. 
4. Prominent subcarinal and right hilar lymph nodes.  Other 
additional scattered mediastinal lymph nodes are mildly numerous 
but not individually enlarged. These are likely reactive. 
---
Bilateral lower extremity ultrasounds (___):   
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 
---
TEE (___): 
No spontaneous echo contrast or thrombus is seen in the body of 
the left atrium/left atrial appendage or the body of the right 
atrium/right atrial appendage. A very small left-to-right shunt 
across the interatrial septum is seen at rest c/w a very small 
secundum atrial septal defect. Overall left ventricular systolic 
function is normal (LVEF>55%). The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion. Trace 
aortic regurgitation is seen. The mitral valve leaflets are 
structurally normal. Mild (1+) mitral regurgitation is seen. 
There is no pericardial effusion. 

IMPRESSION: No spontaneous echo contrast or thrombus in the 
___. Very small secundum type atrial septal defect 
with left-to-right flow. Mild mitral regurgitation. 
---
ECG (___):
Atrial fibrillation with a rapid response rate of 114 beats per 
minute. 
Non-diagnostic Q waves inferiorly. Non-specific ST segment 
changes. Compared to the previous tracing of ___ the 
ventricular response rate is slower and a regular narrow complex 
tachycardia has been replaced by an irregular narrow complex 
tachycardia likely consistent with atrial fibrillation versus 
atrial flutter with a variable conduction. 
  Intervals     Axes 
Rate PR QRS QT QTc (___)    P QRS T 
___   243 22 -67 
---
ECG (___): 
Sinus rhythm with left atrial enlargement. There are small 
inferior Q waves. Cannot rule out an old inferior wall 
myocardial infarction. Non specific ST-T wave abnormalities most 
marked in the apical leads. Compared to the previous tracing 
sinus rhythm has replaced atrial flutter. 
  Intervals     Axes 
Rate PR QRS QT QTc (___)    P QRS T 
75 160 96 422 448   34 43 -30

=================
DISCHARGE LABS
=================
___ 09:50AM BLOOD WBC-4.4 RBC-4.62 Hgb-11.7* Hct-38.4* 
MCV-83 MCH-25.3* MCHC-30.5* RDW-13.9 RDWSD-41.3 Plt ___
___ 09:50AM BLOOD ___ PTT-38.0* ___
___ 09:50AM BLOOD Glucose-116* UreaN-11 Creat-1.0 Na-138 
K-4.2 Cl-101 HCO3-23 AnGap-18
___ 09:50AM BLOOD Calcium-9.4 Phos-3.4 Mg-2.4
 
Brief Hospital Course:
Mr. ___ is a ___ man with a history of 
paroxysmal atrial fibrillation, who presented with generalized 
malaise, cough, and dyspnea, and was found to be in atrial 
flutter with rapid rates. His rates were initially controlled 
with diltiazem gtt and oral diltiazem, and he was anticoagulated 
with a heparin gtt. On ___, he underwent successful TEE/DCCV to 
normal sinus rhythm. Diltiazem ER 120 mg daily was continued, 
and he was started on rivaroxaban 20 mg daily for 
anticoagulation. The patient was in normal sinus rhythm at time 
of discharge.

Of additional note, the patient has a several-month history of 
migrating arthralgias, fevers, night sweats, and weight loss. A 
month or so prior to presentation, he was seen by a doctor who 
thought he had Lyme disease (reportedly confirmed with Western 
blot), and started him on doxycycline, clarithromycin, nystatin, 
and hydroxychloroquine. He initially felt better but on the day 
prior to admission had a fever to 101 at home. Here, he was 
afebrile and without leukocytosis. However, his inflammatory 
markers including ESR/CRP (79/138) and D-dimer (3280) were 
markedly elevated (CTA negative for PE). The patient's symptoms 
warrant further outpatient evaluation by infectious disease and 
rheumatology.

===========================
ACTIVE ISSUES:
===========================  
# Atrial Flutter: Patient presented with generalized malaise, 
cough, and dyspnea, and was found to be in atrial flutter with 
rapid rates. His rates were initially controlled with diltiazem 
gtt and oral diltiazem, and he was anticoagulated with a heparin 
gtt. On ___, he underwent successful TEE/DCCV to normal sinus 
rhythm. Diltiazem ER 120 mg daily was continued, and he was 
started on rivaroxaban 20 mg daily for anticoagulation. His home 
atenolol and aspirin were discontinued.

# Fever: Patient has a several-month history of migrating 
arthralgias, fevers, night sweats, and weight loss. A month or 
so prior to presentation, he was seen by a doctor who thought he 
had Lyme disease (reportedly confirmed with Western blot), and 
started him on doxycycline, clarithromycin, nystatin, and 
hydroxychloroquine. He initially felt better but on the day 
prior to admission had a fever to 101 at home. Here, he was 
afebrile and without leukocytosis. However, his inflammatory 
markers including ESR/CRP (79/138) and D-dimer (3280) were 
markedly elevated (CTA negative for PE). The patient's symptoms 
warrant further outpatient evaluation by infectious disease and 
rheumatology.

===========================
CHRONIC ISSUES:
===========================  
# Anxiety: Continued home alprazolam 
# GERD: Continued home omeprazole 
# Gout: Continued home allopurinol 

===========================
TRANSITIONAL ISSUES:
===========================
- NEW MEDICATIONS:
-- Started diltiazem ER 120 mg daily
-- Started rivaroxaban 20 mg daily
-- Stopped aspirin
-- Stopped atenolol
- Patient to follow up with his cardiologist on ___
- If the patient has recurrent atrial flutter, his cardiologist 
can refer him to electrophysiology for consideration of ablation
- His underlying infectious/inflammatory process may be a 
precipitating factor for his atrial fibrillation/flutter. 
Inflammatory markers were noted to be elevated while inpatient. 
The patient's symptoms warrant further outpatient evaluation by 
infectious disease and rheumatology.
- Patient noted to have normocytic anemia (discharge H/H 
11.7/38.4). If not already done, would evaluate for cause of 
anemia and treat as appropriate.
- Code: Full
- Communication: ___: ___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atenolol 12.5 mg PO BID 
2. Omeprazole 20 mg PO DAILY 
3. Allopurinol ___ mg PO DAILY 
4. ALPRAZolam 1 mg PO BID:PRN anxiety 
5. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1.  Diltiazem Extended-Release 120 mg PO DAILY 
RX *diltiazem HCl [DILT-XR] 120 mg 1 capsule(s) by mouth daily 
Disp #*30 Capsule Refills:*1 
2.  Rivaroxaban 20 mg PO DINNER 
RX *rivaroxaban [Xarelto] 20 mg 1 tablet(s) by mouth daily with 
dinner Disp #*30 Tablet Refills:*3 
3.  Allopurinol ___ mg PO DAILY  
4.  ALPRAZolam 1 mg PO BID:PRN anxiety  
5.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
- Atrial fibrillation/atrial flutter

SECONDARY:
- Anxiety
- Gastroesophageal reflux

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you. You came to the hospital 
because you were having an abnormal heart rhythm called atrial 
flutter. You had a procedure to zap your heart back into a 
normal rhythm. This was successful, and you tolerated the 
procedure well.

Please continue to take your medication as prescribed and follow 
up with your doctors.

___ wish you the best of health.

Sincerely,
Your ___ Team
 
Followup Instructions:
___